US07192943B2
A solution of the crude product of 1-benzyl 4-tert-butyl {(1S)-1-[(5-amino-1-methyl-1H-pyrazol-4-yl)carbamoyl]tetramethylene}biscarbamate in methanol (200 ml) was treated with 10% palladium on carbon (1.0 g) under a hydrogen atmosphere at room temperature for 6 days. After the catalyst was filtered off, the filtrate was concentrated in vacuo. The residue was triturated with ether and dried in vacuo to give tert-butyl (4S)-4-amino-5-[(5-amino-1-methyl-1H-pyrazol-4-yl)amino]-5-oxopentylcarbamate (5.5 g) as a solid.

reactant | 1-benzyl 4-tert-butyl {(1S)-1-[(5-amino-1-methyl-1H-pyrazol-4-yl)carbamoyl]tetramethylene}biscarbamate | NC1=C(C=NN1C)NC(=O)[C@H](CCCNC(OC(C)(C)C)=O)NC(OCC1=CC=CC=C1)=O | C22H32N6O5
solvent | methanol | 200 ml | CO | CH4O
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
product | tert-butyl (4S)-4-amino-5-[(5-amino-1-methyl-1H-pyrazol-4-yl)amino]-5-oxopentylcarbamate | 5.5 g | N[C@@H](CCCNC(OC(C)(C)C)=O)C(=O)NC=1C=NN(C1N)C | C14H26N6O3
